US09079866B2
4′-Acetyl-N,N-diethyl-3′-fluorobiphenyl-2-sulfonamide
The title compound was prepared using conditions analogous to those described in Example 1 using (4-acetyl-3-fluorophenyl)boronic acid and 2-bromo-N,N-diethylbenzenesulfonamide. MS (ESI): mass calcd. for C18H20FNO3S, 349.11; m/z found, 350.1 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.05 (dd, J=7.9, 1.2, 1H), 7.92 (m, 1H), 7.61-7.56 (m, 1H), 7.55-7.49 (m, 1H), 7.29-7.27 (m, 2H), 7.25-7.24 (m, 1H), 2.95 (q, J=7.1, 4H), 2.69 (d, J=4.9, 3H), 1.01 (t, J=7.1, 6H).

reactant | (4-acetyl-3-fluorophenyl)boronic acid | C(C)(=O)C1=C(C=C(C=C1)B(O)O)F | C8H8BFO3
reactant | 2-bromo-N,N-diethylbenzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N(CC)CC | C10H14BrNO2S
product | 4′-Acetyl-N,N-diethyl-3′-fluorobiphenyl-2-sulfonamide | C(C)(=O)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N(CC)CC)F | C18H20FNO3S
